US09403782B2
A mixture of 2-(2-(4-bromo-1H-pyrazol-1-yl)ethyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one (35 mg, 0.073 mmol), 2-methoxypyrimidin-5-ylboronic acid (13 mg, 0.087 mmol), dppf(Pd)Cl2 (2.7 mg, 0.0037 mmol), potassium carbonate (20 mg, 0.015 mmol) in degassed toluene (1 mL), degassed water (0.5 mL) and degassed isopropanol (0.5 mL) was heated at 85° C. for 3 hours. The layers were separated, the organic layer was concentrated and the residue was purified by reverse phase HPLC to provide 2-(2-(4-(2-methoxypyrimidin-5-yl)-1H-pyrazol-1-yl)ethyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one as a white powder. C25H19F3N6O3. 509.2 (M+1). 1H NMR (DMSO) δ 8.74 (s, 1H), 8.38-8.44 (m, 2H), 8.26 (dd, J=2.0, 8.0 Hz, 1H), 8.20 (s, 1H), 8.03 (d, J=8.4 Hz, 1H), 7.94 (d, J=8.8 Hz, 2H), 7.84 (s, 1H), 7.51 (d, J=8.4 Hz, 2H), 4.56 (s, 4H), 3.87 (s, 3H).

reactant | 2-(2-(4-bromo-1H-pyrazol-1-yl)ethyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | 0.073 mmol, 35 mg | BrC=1C=NN(C1)CCN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C20H14BrF3N4O2
reactant | 2-methoxypyrimidin-5-ylboronic acid | 0.087 mmol, 13 mg | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
reactant | potassium carbonate | 0.015 mmol, 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(4-(2-methoxypyrimidin-5-yl)-1H-pyrazol-1-yl)ethyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | COC1=NC=C(C=N1)C=1C=NN(C1)CCN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C25H19F3N6O3
